US05491200
Methyl 3,5-bis(4-nitrophenoxy)benzoate
A mixture of potassium carbonate (98.72 g, 0.714 mol) and 550 ml of N,N-dimethylacetamide (DMAC) is added to a 1L, three-necked round-bottom flask equipped with an overhead stirrer, condenser and a nitrogen inlet tube. Nitrogen is bubbled through the solution for 1 hour, following which methyl 3,5-dihydroxybenzoate (60.00 g, 0.357 mol) and 1-fluoro-4-nitrobenzene (100.79 g, 0.714 mol) are added. The slurry solution is stirred and heated to 80°-90° C. under nitrogen for 10 hours, and the mixture is then filtered while hot to remove inorganic salts. The filtrate is kept in a freezer overnight and the yellow crystals are collected by filtration, washed with water and dried. The product is recrystallized from ethyl acetate to yield 68 percent of yellow crystals: mp 180.5°-182.0° C.

reactant | potassium carbonate | 0.714 mol, 98.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3,5-dihydroxybenzoate | 0.357 mol, 60.00 g | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | 1-fluoro-4-nitrobenzene | 0.714 mol, 100.79 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | N,N-dimethylacetamide | 550 ml | CN(C(C)=O)C | C4H9NO
product | Methyl 3,5-bis(4-nitrophenoxy)benzoate | 68 percent | [N+](=O)([O-])C1=CC=C(OC=2C=C(C(=O)OC)C=C(C2)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H14N2O8
